US09340556B2
To a suspension of 8-bromo-3-((4-methoxybenzyl)oxy)-1-methylquinolin-4(1H)-one (2.6 g, 6.95 mmol), DPPF (0.462 g, 0.834 mmol), palladium tetrakis (0.482 g, 0.417 mmol) and Pd2(dba)3 (0.382 g, 0.417 mmol) in N,N-dimethylformamide (30 mL) at room temperature was added dicyanozinc (0.979 g, 8.34 mmol). The mixture was then heated at 110° C. under N2 for 1 h. After cooled to room temperature, the mixture was concentrated in vacuo and then partitioned between EtOAc (80 mL) and conc. NH4Cl (40 mL). The organic phase was separated, washed with brine (40 mL), dried over sodium sulfate, and concentrated. The residue was purified twice by automatic silica gel column chromatography (Combiflash RF), eluting with ethyl acetate/hexanes (0-100%) to afford 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-8-carbonitrile (1.87 g, 5.84 mmol, 84% yield) as a light brown solid. LCMS: (M+H)+: 321.1.

reactant | 8-bromo-3-((4-methoxybenzyl)oxy)-1-methylquinolin-4(1H)-one | 6.95 mmol, 2.6 g | BrC=1C=CC=C2C(C(=CN(C12)C)OCC1=CC=C(C=C1)OC)=O | C18H16BrNO3
reactant | dicyanozinc | 8.34 mmol, 0.979 g | C(#N)[Zn]C#N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | DPPF | 0.834 mmol, 0.462 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium tetrakis | 0.417 mmol, 0.482 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd2(dba)3 | 0.417 mmol, 0.382 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-8-carbonitrile | 5.84 mmol, 1.87 g, 84% yield | COC1=CC=C(COC2=CN(C3=C(C=CC=C3C2=O)C#N)C)C=C1 | C19H16N2O3
